US07501414B2
N-(4-Amino-2,6-diisopropyl-phenyl)-4-methyl-benzenesulfonamide
To a suspension of N-(2,6-diisopropyl-4-nitro-phenyl)-4-methyl-benzenesulfonamide (3.72 g) in ethanol (50 mL) was added stannous(II) chloride dihydrate (11.2 g) and the mixture was heated to 80° C. for 1.5 hour. It was then poured onto ice (300 mL), made strongly basic with solid sodium hydroxide (20 g) and diluted with ethyl acetate (100 mL). The suspension was filtered and extracted with ethyl acetate (3×100 mL). The combined organic phases were dried over sodium sulfate and concentrated in vacuo. The crude product was purified by flash chromatography to furnish 2.60 g (76%) of the title compound as an off-white solid. 1H NMR (500 MHz, CDCl3): 0.95 (d, 12H), 2.40 (s, 3H), 3.02 (m, 2H), 3.68 (b, 2H), 5.74 (s, 1H), 6.39 (s, 2H), 7.23 (d, 2H), 7.60 (d, 2H).

reactant | N-(2,6-diisopropyl-4-nitro-phenyl)-4-methyl-benzenesulfonamide | 3.72 g | C(C)(C)C1=C(C(=CC(=C1)[N+](=O)[O-])C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C | C19H24N2O4S
reactant | sodium hydroxide | 20 g | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-(4-Amino-2,6-diisopropyl-phenyl)-4-methyl-benzenesulfonamide | 2.60 g, 76% | NC1=CC(=C(C(=C1)C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C)C(C)C | C19H26N2O2S
